US07268145B2
To 2-((1-(2-hydroxyethyl)-5,6-dimethylbenzimidazole-2-ylthio)methyl)benzoic acid methyl ester (45 mg, 0.23 mmol) in N-methylmorpholine (3 ml), Pph3 (62 mg, 0.24 mmol) and DEAD (10.6 ml, 40% in toluene, 0.24 mmol) were added and the mixture was stirred at room temperature. After 10 minutes, phenol (11.3 mg, 0.12 mmol) was added thereto, which was stirred at room temperature for 12 hours. The solvent was evaporated and the residue was purified by thin layer chromatography (hexane:ethyl acetate=1:1) to obtain 2-((5,6-dimethyl-1-(2-phenoxyethyl)benzimidazole-2-ylthio)methyl)benzoic acid methyl ester (44 mg, yield 81%).

reactant | 2-((1-(2-hydroxyethyl)-5,6-dimethylbenzimidazole-2-ylthio)methyl)benzoic acid methyl ester | 0.23 mmol, 45 mg | COC(C1=C(C=CC=C1)CSC1=NC2=C(N1CCO)C=C(C(=C2)C)C)=O | C20H22N2O3S
reactant | DEAD | 0.24 mmol, 10.6 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | phenol | 0.12 mmol, 11.3 mg | C1(=CC=CC=C1)O | C6H6O
solvent | N-methylmorpholine | 3 ml | CN1CCOCC1 | C5H11NO
product | 2-((5,6-dimethyl-1-(2-phenoxyethyl)benzimidazole-2-ylthio)methyl)benzoic acid methyl ester | 44 mg, yield 81% | COC(C1=C(C=CC=C1)CSC1=NC2=C(N1CCOC1=CC=CC=C1)C=C(C(=C2)C)C)=O | C26H26N2O3S
